US09376449B2
To a mixture of 3-(2-aminoethyl)-5-methoxy-N-methyl-1H-indole-2-carboxamide hydrochloride (90.0 mg) and dichloromethane (5.00 mL) were added diisopropylethylamine (0.163 mL) and difluoroacetic anhydride (0.0470 mL), followed by stirring at room temperature for 1 hour. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (chloroform:methanol=10:0 to 10:1). The obtained residue was solidified with a mixed solvent of hexane:ethyl acetate=2:1 to obtain 3-{2-[(difluoroacetyl)amino]ethyl}-5-methoxy-N-methyl-1H-indole-2-carboxamide (73.0 mg) as a white solid.

reactant | 3-(2-aminoethyl)-5-methoxy-N-methyl-1H-indole-2-carboxamide hydrochloride | 90.0 mg | Cl.NCCC1=C(NC2=CC=C(C=C12)OC)C(=O)NC
reactant | diisopropylethylamine | 0.163 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | difluoroacetic anhydride | 0.0470 mL | FC(C(=O)OC(C(F)F)=O)F | C4H2F4O3
solvent | dichloromethane | 5.00 mL | ClCCl | CH2Cl2
product | 3-{2-[(difluoroacetyl)amino]ethyl}-5-methoxy-N-methyl-1H-indole-2-carboxamide | 73.0 mg | FC(C(=O)NCCC1=C(NC2=CC=C(C=C12)OC)C(=O)NC)F | C15H17F2N3O3
